US05843973
Trans-4-benzyloxymethyl-1-hydroxymethylcyclohexane
In 10 ml of tetrahydrofuran was suspended 1.51 g of sodium hydride (55% content), and a solution of 5.0 g of trans-1,4-dihydroxymethylcyclohexane dissolved in 20 ml of tetrahydrofuran was added dropwise thereto with stirring under ice-cooling, and the reaction mixture was stirred at room temperature for 50 minutes. To the reaction mixture was added 3.79 ml of benzyl bromide with stirring under ice-cooling and the mixture was stirred under ice-cooling for 1 hour and further at room temperature overnight. The insolubles were separated by filtration and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and the solution was washed successively with an aqueous sodium chloride solution, 10% aqueous hydrochloric acid solution, an aqueous sodium chloride solution and an aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent: cyclohexane/ethyl acetate=20/1-5/1) to obtain 1.75 g of the desired compound as a colorless oil.

reactant | sodium hydride | 1.51 g | [H-].[Na+]
reactant | trans-1,4-dihydroxymethylcyclohexane | 5.0 g | OC[C@@H]1CC[C@H](CC1)CO | C8H16O2
reactant | benzyl bromide | 3.79 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Trans-4-benzyloxymethyl-1-hydroxymethylcyclohexane | 1.75 g | C(C1=CC=CC=C1)OC[C@@H]1CC[C@H](CC1)CO | C15H22O2
